US05294737
(1c(+)) (1R,2S)-2-phenyl-1-cyclohexyl triisopropyl-silyl-oxyacetate (i--Pr3Si--OCH2COO--(+)-trans-2-phenyl-1-cyclohexyl)
In the same manner, 1a, 1b, and 1c(+) were prepared from the combinations of (-)-menthyl hydroxyacetate with tertbutyldimethylsilyl chloride, (-)-(1R,2S)-2-phenyl-1-cyclohexyl hydroxyacetate with tert-butyldimethylsilyl chloride, and (+)-(1S,2R)-2-phenyl-1-cyclohexyl hydroxyacetate with triisopropylsilyl chloride, respectively, in 90-95% yields.

reactant | (-)-menthyl hydroxyacetate | OCC(=O)OC1CC(CCC1C(C)C)C | C12H22O3
reactant | tertbutyldimethylsilyl chloride | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | (-)-(1R,2S)-2-phenyl-1-cyclohexyl hydroxyacetate | OCC(=O)O[C@H]1[C@@H](CCCC1)C1=CC=CC=C1 | C14H18O3
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | (+)-(1S,2R)-2-phenyl-1-cyclohexyl hydroxyacetate | OCC(=O)O[C@@H]1[C@H](CCCC1)C1=CC=CC=C1 | C14H18O3
reactant | triisopropylsilyl chloride | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
product | (1R,2S)-2-phenyl-1-cyclohexyl triisopropyl-silyl-oxyacetate | C(C)(C)[Si](OCC(=O)O[C@H]1[C@@H](CCCC1)C1=CC=CC=C1)(C(C)C)C(C)C | C23H38O3Si
